US05407943
1. 1-Benzyloxycarbonyl-3-hydroxypiperidine
To a solution of 3-hydroxypiperidine hydrochloride (20.0 g, 0.145 mol) in dioxane (500 ml) and water (500 ml) was added benzyl chloroformate (24.88 ml, 0.17 mol) and triethylamine (101 ml, 0.73 mol). The mixture was stirred at room temperature overnight. The reaction mixture was extracted with ether and the organic layer was washed with brine, dried over magnesium sulfate and concentrated. The crude product was purified through chromatography on silica gel (eluent: 1:1 ethyl acetate/hexane) and the title compound was obtained as a pale yellow viscous oil (20.7 g, 88 mmol, yield 61%).

reactant | 3-hydroxypiperidine hydrochloride | 0.145 mol, 20.0 g | Cl.OC1CNCCC1
reactant | benzyl chloroformate | 0.17 mol, 24.88 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | triethylamine | 0.73 mol, 101 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
solvent | water | 500 ml | O | H2O
product | 1-Benzyloxycarbonyl-3-hydroxypiperidine | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)O | C13H17NO3
